US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (0.59 g, 2.65 mmol), 2-trifluoromethylbenzaldehyde (0.5 ml) and glacial acetic acid (25 ml) was refluxed overnight and then 0.5 equivalents of additional aldehyde was added and the mixture was refluxed for about 3 days. The reaction mixture was cooled to room temperature, the acetic acid was stripped and the residue was cooled and rinsed with ether to give a white solid which was collected by filtration and recrystallized from tert-butyl dimethyl ether/hexanes to afford 1-cyclopentyl-3-ethyl-6-(2-trifluoromethylphenyl)-pyrazolo[3,4-d]pyrimidin-4-one, m.p. 201°-202° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 2.65 mmol, 0.59 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 2-trifluoromethylbenzaldehyde | 0.5 ml | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-(2-trifluoromethylphenyl)-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=CC=C2)C(F)(F)F)CC | C19H19F3N4O
